US06346527B1
To a mixture of ethyl 2,3-dihydro-9-hydroxy-1-benzoxepin-4-carboxylate (1.17 g) and triethylamine (0.14 ml) in dichloromethane (12 ml) was added dropwise trifluoromethanesulfonic anhydride (0.93 ml) under ice-sodium chloride cooling. The reaction mixture was stirred at 0° C. for 4 hours, poured into water, and adjusted to pH 10 with 20% aqueous potassium carbonate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by medium pressure liquid chromatography (silica gel) using a mixture of ethyl acetate and n-hexane (1:30) to give a solid of ethyl 2,3-dihydro-9-trifluoromethanesulfonyloxy-1-benzoxepin-4-carboxylate (1.44 g).

reactant | ethyl 2,3-dihydro-9-hydroxy-1-benzoxepin-4-carboxylate | 1.17 g | OC1=CC=CC=2C=C(CCOC21)C(=O)OCC | C13H14O4
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.93 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | ethyl 2,3-dihydro-9-trifluoromethanesulfonyloxy-1-benzoxepin-4-carboxylate | 1.44 g | FC(S(=O)(=O)OC1=CC=CC=2C=C(CCOC21)C(=O)OCC)(F)F | C14H13F3O6S
